US06727264B1
2-METHYL-N-[3-(1-{4-[2-PHENYL-5-(TRIFLUOROMETHOXY)-1H-INDOL-3-YL]BUTYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-{3-[1-(6-oxo-6-phenylhexyl)-4-piperidinyl]phenyl}propanamide and 1-[4-(trifluoromethoxy)phenyl]hydrazine hydrochloride: ESMS m/e: 578.2 (M+H)+.

reactant | 2-methyl-N-{3-[1-(6-oxo-6-phenylhexyl)-4-piperidinyl]phenyl}propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)C | C27H36N2O2
reactant | 1-[4-(trifluoromethoxy)phenyl]hydrazine hydrochloride | Cl.FC(OC1=CC=C(C=C1)NN)(F)F
product | 2-METHYL-N-[3-(1-{4-[2-PHENYL-5-(TRIFLUOROMETHOXY)-1H-INDOL-3-YL]BUTYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC1=C(NC2=CC=C(C=C12)OC(F)(F)F)C1=CC=CC=C1)C | C34H38F3N3O2
